US06579879B2
Step C: 6-(Indole-2-sulfonyl)-2H-pyridazin-3-one.
A mixture of 3-methoxy-6-(indole-2-sulfonyl)-pyridazine (0.58 mmol, 290 mg), conc. HCl (0.5 mL), and dioxane (3 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled and evaporated to dryness. Water (10 mL) was added to the residue, and the resulting solid, 6-(indole-2-sulfonyl)-2H-pyridazin-3-one was collected and dried (83%, 133 mg); mp 248° C.-249° C.

reactant | 3-methoxy-6-(indole-2-sulfonyl)-pyridazine | 0.58 mmol, 290 mg | COC=1N=NC(=CC1)S(=O)(=O)C=1NC2=CC=CC=C2C1 | C13H11N3O3S
reactant | HCl | 0.5 mL | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-(Indole-2-sulfonyl)-2H-pyridazin-3-one | N1C(=CC2=CC=CC=C12)S(=O)(=O)C=1C=CC(NN1)=O | C12H9N3O3S
